US04131617
N-cyanoethyl p-fluorophenoxy isobutyramide
The procedure of Example 1 was repeated except that the p-chlorophenol was replaced by p-fluorophenol, which after the dodium treatment was reacted with N-Cyanoethyl α -bromo-isobutyramide.

reactant | p-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | p-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | N-Cyanoethyl α -bromo-isobutyramide | C(#N)CCNC(C(C)(C)Br)=O | C7H11BrN2O
product | N-cyanoethyl p-fluorophenoxy isobutyramide | C(#N)CCNC(C(C)(C)OC1=CC=C(C=C1)F)=O | C13H15FN2O2
